US04568700
Chloromethyloctylether
33 g (1.1 mole) of (CH2O)n were stirred in 100 ml 1,1,2-trichloroethane with 130 g (1.0 mole) 1-octanol at 0°-5° C. HCl gas was passed for one hour. The product was analysed by MS-GC, as described in example 7 and was found to contain 2.3% bis-chloromethylether.

reactant | 1-octanol | 1.0 mole, 130 g | C(CCCCCCC)O | C8H18O
reactant | HCl | Cl | ClH
reactant | bis-chloromethylether | ClC(Cl)OC(Cl)Cl | C2H2Cl4O
solvent | 1,1,2-trichloroethane | 100 ml | ClC(CCl)Cl | C2H3Cl3
product | Chloromethyloctylether | ClCOCCCCCCCC | C9H19ClO
